US04859683
A solution of 5 g (17.1 mmol) of methyl 2-methoxymethyloxy-3-allyl-4-acetylaminobenzoate in 20 ml of 1,4-dioxane is heated to 45° C. and 0.86 ml (6.86 mmol) of a 1M solution of osmium tetroxide in t-butanol is added in a single portion. Stirring is continued 15 minutes at 45° C. 7.32 g (34.2 mmol) of sodium periodate is added portionwise and stirring is continued 1 hour. Cyclohexane (1 ml) is added and stirring continued for 1 hour. The reaction mixture is then diluted with CH2Cl2 and washed with water. The organic layer is dried over MgSO4, filtered and concentrated. Flash chromatography (10% EtOAc/hexanes) affords pure 2-methoxymethyloxy-3-carbomethoxy-6-acetylaminophenylacetaldehyde which is used directly in the next step.

reactant | methyl 2-methoxymethyloxy-3-allyl-4-acetylaminobenzoate | 17.1 mmol, 5 g | COCOC1=C(C(=O)OC)C=CC(=C1CC=C)NC(C)=O | C15H19NO5
reactant | sodium periodate | 34.2 mmol, 7.32 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | Cyclohexane | 1 ml | C1CCCCC1 | C6H12
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | t-butanol | C(C)(C)(C)O | C4H10O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | 2-methoxymethyloxy-3-carbomethoxy-6-acetylaminophenylacetaldehyde | COCOC1=C(C(=CC=C1C(=O)OC)NC(C)=O)CC=O | C14H17NO6
